US05236924
A mixture of 30.8 g of 4-benzyl-2-methyl-1-methoxybenzene with 50 ml of hydrobromic acid and 100 ml of acetic acid was refluxed with heating for 5 hours. This was left for cooling and neutralized with an aqueous sodium hydrogen-carbonate solution and was extracted twice with 100 ml of ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then was concentrated under reduced pressure. The resulting oily residue was chromatographed on a silica gel column (eluting solvent hexane : acetone=3 : 1 (v/v)) to obtain 23.7 g of 4-benzyl-2-methylphenol.

reactant | 4-benzyl-2-methyl-1-methoxybenzene | 30.8 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)OC)C | C15H16O
reactant | hydrobromic acid | 50 ml | Br | BrH
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-benzyl-2-methylphenol | 23.7 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)O)C | C14H14O
